US08383821B2
3′-Bromo-5′-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-4-carbonitrile.
tert-Butyl 4-(((5-bromo-4′-cyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (24.3 mg, 0.04 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was evaporated and the compound purified by column chromatography (10% ammonia in methanol/methylene chloride) to afford 13.2 mg (72%). 1H-NMR (CDCl3, 500 MHz) δ 7.71-7.73 (m, 2H), 7.31-7.37 (m, 5H), 7.28 (s, 1H), 7.20-7.22 (m, 2H), 4.38 (s, 2H), 3.44 (s, 2H), 2.91-2.94 (m, 2H), 2.74-2.78 (m, 2H), 2.16-2.20 (m, 2H), 1.89-1.93 (m, 2H). Mass spec.: 463.09 (MH)+. Accurate mass spec.: m/z 463.1205 [MH]+, Δ=1.0 ppm.

reactant | tert-Butyl 4-(((5-bromo-4′-cyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.04 mmol, 24.3 mg | BrC=1C=C(C=C(C1)C1=CC=C(C=C1)C#N)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C31H33BrN2O3
reactant | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 3′-Bromo-5′-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-4-carbonitrile | BrC=1C=C(C=C(C1)COCC1(CCNCC1)C1=CC=CC=C1)C1=CC=C(C=C1)C#N | C26H25BrN2O
